US08383644B2
(S)-2-tert-Butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester (310 mg), was subjected to hydrogenation using 10% Pd on carbon (150 mg) in methanol (20 mL), ethyl acetate (10 mL) and TEA (1 mL) as described in General Procedure Q furnished (S)-2-tert-butoxycarbonylamino-3-[(S)-2-(4-hydroxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-propionic acid methyl ester (240 mg). LCMS (m/z): 431.

reactant | (S)-2-tert-Butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester | 310 mg | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NC(=O)OC(C)(C)C)=O | C30H31Cl2NO7
solvent | methanol | 20 mL | CO | CH4O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 150 mg | [Pd] | Pd
product | (S)-2-tert-butoxycarbonylamino-3-[(S)-2-(4-hydroxy-phenyl)-2,3-dihydro-benzo[1,4]dioxin-6-yl]-propionic acid methyl ester | 240 mg | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)O)C=C1)NC(=O)OC(C)(C)C)=O | C23H27NO7
